US05021481
N,N'-Bis(5,5-dimethyl-1,3,2-dioxaphosphorinan-2-yl)-N,N'bis(1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-yl)hexamethylenediamine
The title compound is prepared from N,N'-bis(1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-yl)hexamethylenediamine and 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane according to the procedure of Example 11C.

reactant | N,N'-bis(1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-yl)hexamethylenediamine | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCCCCNC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(C)C | C36H70N4O2
reactant | 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane | ClP1OCC(CO1)(C)C | C5H10ClO2P
product | N,N'-Bis(5,5-dimethyl-1,3,2-dioxaphosphorinan-2-yl)-N,N'bis(1-cyclohexyloxy-2, 2,6,6-tetramethylpiperidin-4-yl)hexamethylenediamine | CC1(COP(OC1)N(CCCCCCN(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)P1OCC(CO1)(C)C)C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)C | C46H88N4O6P2
